US05192766
(Z)-3-(2-Naphthyl)-3-phenylacrylic acid
24 ml of a 10% w/v aqueous solution of sodium hydroxide were added to a solution of 2.411 g of ethyl (Z)-3-(2-naphthyl)-3-phenylacrylate (prepared as described in Preparation 112) in 48 ml of ethanol and 24 ml of tetrahydrofuran. The mixture was stirred for 15 hours at room temperature and then poured into water. The pH of the resulting mixture was adjusted to a value of 2 by the addition of concentrated hydrochloric acid, and the mixture was then extracted twice with methylene chloride. The combined extracts were washed with water and dried over anhydrous sodium sulfate; the solvent was then removed by evaporation under reduced pressure. The residue was recrystallized from a mixture of methylene chloride and hexane, to give 2.005 g of the title compound, melting at 170°-172° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl (Z)-3-(2-naphthyl)-3-phenylacrylate | 2.411 g | C1=C(C=CC2=CC=CC=C12)\C(=C/C(=O)OCC)\C1=CC=CC=C1 | C21H18O2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 48 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | (Z)-3-(2-Naphthyl)-3-phenylacrylic acid | 2.005 g | C1=C(C=CC2=CC=CC=C12)\C(=C/C(=O)O)\C1=CC=CC=C1 | C19H14O2
